US07989438B2
Step 1: methyl 4-azidobutanoate
To a solution of methyl-4-bromobutyrate in DMSO (0.6 M) was added with stirring NaN3 (1.5 eq). The suspension was heated (45-50° C., oil bath) with stirring for 5 h. After cooling, H2O was added and the mixture extracted with Et2O. The organic extracts were washed with brine and dried over Na2SO4. The solvent was removed in vacuo and the crude oil used without further purification (99%).

reactant | methyl-4-bromobutyrate | COC(CCCBr)=O | C5H9BrO2
reactant | NaN3 | 1.5 eq | [N-]=[N+]=[N-].[Na+]
reactant | H2O | O | H2O
solvent | DMSO | 0.6 M | CS(=O)C | C2H6OS
product | methyl 4-azidobutanoate | N(=[N+]=[N-])CCCC(=O)OC | C5H9N3O2
